US05580883
1-Acetyl-4-(4-nitrophenyloxy) piperidine (4.72 g) was dissolved in ethanol (50 ml) and to the mixture was added conc. hydrochloric acid (2.5 ml). By using 10% palladium/carbon as a catalyst, catalytic reduction was conducted at a normal temperature and normal pressure. After completion of the reaction, the catalyst was removed and the solvent was distilled off. To the residual oily compound was added water (20 ml). The solution was made basic with addition of solid potassium carbonate and extracted with ethyl acetate. After drying over anhydrous magnesium sulfate, the solvent was distilled off to obtain an oily compound of 1-acetyl-4-(4-aminophenyloxy) piperidine (3.9 g). The oily compound (1.77 g) was dissolved in dimethylformamide (10 ml) and to the mixture were added potassium carbonate (2.1 g) and 1,4-dibromobutane (0.9 ml), followed by heating with stirring at 100° C. for one hour. After completion of the reaction, water (50 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then the solvent was distilled off. The residual oily compound was separated and purified by silica gel column chromatography and then recrystallized from ethyl acetate/ethyl ether to obtain colorless crystals (1.5 g), m.p. 69°-70° C.

reactant | 1-Acetyl-4-(4-nitrophenyloxy) piperidine | 4.72 g | C(C)(=O)N1CCC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O4
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | 1-acetyl-4-(4-aminophenyloxy) piperidine | 3.9 g | C(C)(=O)N1CCC(CC1)OC1=CC=C(C=C1)N | C13H18N2O2
